US08791107B2
2-(benzo[d][1,3]dioxol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one
The title compound was prepared in a manner similar to EXAMPLE 84 using 2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one (PREPARATION x1, 50 mg, 0.208 mmol), benzo[d][1,3]dioxol-4-ylboronic acid (51.7 mg, 0.312 mmol) and PdCl2(dppf) (7.60 mg, 10.39 μmol) in dioxane (2 mL) and aqueous saturated NaHCO3 (0.4 mL). 1H NMR (400 MHz, DMSO-d6) δ 2.96-3.09 (m, 1H), 3.62 (m, 2H), 3.93-4.01 (m, 1H), 4.11-4.20 (m, 1H), 4.36-4.46 (m, 1H), 4.52-4.62 (m, 1H), 6.12 (s, 2H), 6.94 (t, 1H), 7.02 (m, 1H), 7.58-7.65 (m, 1H), 7.83 (s, 1H), 10.98 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C16H14N4O4, 327.10. found 327.3.

reactant | 2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | 0.208 mmol, 50 mg | ClC1=NC=2N3C(C(NC2C=N1)=O)COCC3 | C9H9ClN4O2
reactant | benzo[d][1,3]dioxol-4-ylboronic acid | 0.312 mmol, 51.7 mg | O1COC2=C1C=CC=C2B(O)O | C7H7BO4
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 0.4 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 10.39 μmol, 7.60 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(benzo[d][1,3]dioxol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | O1COC2=C1C=CC=C2C2=NC=1N3C(C(NC1C=N2)=O)COCC3 | C16H14N4O4
